US05082849
0.62 g of 2-(4-chloromethylphenoxy)methyl quinoline, 0.78 g of 2-carboethoxy-5,7-dihydroxy-4'-methoxy isoflavone and 0.31 g potassium carbonate are refluxed in 30 ml of acetone for 17 hours. The mixture was concentrated and the crude product purified by flash chromatography on silica gel and crystallized from toluene to give 2-carboethoxy-5-hydroxy-3-(4-methoxyphenyl)-7-(4-(quinolin-2- ylmethoxy)benzyloxy)-4-oxo-4H-1-benzopyran.

reactant | 2-(4-chloromethylphenoxy)methyl quinoline | 0.62 g | ClCC1=CC=C(OCC2=NC3=CC=CC=C3C=C2)C=C1 | C17H14ClNO
reactant | 2-carboethoxy-5,7-dihydroxy-4'-methoxy isoflavone | 0.78 g | C(=O)(OCC)C=1OC2=CC(=CC(=C2C(C1C1=CC=C(C=C1)OC)=O)O)O | C19H16O7
reactant | potassium carbonate | 0.31 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | 2-carboethoxy-5-hydroxy-3-(4-methoxyphenyl)-7-(4-(quinolin-2- ylmethoxy)benzyloxy)-4-oxo-4H-1-benzopyran | C(=O)(OCC)C=1OC2=C(C(C1C1=CC=C(C=C1)OC)=O)C(=CC(=C2)OCC2=CC=C(C=C2)OCC2=NC1=CC=CC=C1C=C2)O | C36H29NO8
